US08034812B2
Production of N-{5-[(2-{[(1-hydroxycyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of 1-({[6-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]amino}carbonyl)cyclopropyl acetate (130 mg, 0.25 mmol) in tetrahydrofuran (2 mL) was added 1N aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at room temperature for 2 hr. 1N Hydrochloric acid (2.5 mL) and ethyl acetate were added to the reaction mixture, and the aqueous layer was extracted with ethyl acetate (×3). Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate/hexane to give the title compound (99 mg, 86%) as a pale-yellow solid.

reactant | 1-({[6-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]amino}carbonyl)cyclopropyl acetate | 0.25 mmol, 130 mg | C(C)(=O)OC1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC2=CC(=C(C=C2)C)NC(=O)C2=CC(=NN2C)C)C1 | C25H25N7O5
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 2.5 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-{5-[(2-{[(1-hydroxycyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 99 mg, 86% | OC1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1 | C23H23N7O4
